US07728022B2
Step 1—Ethyl [2-oxo-3-(2-oxo-2-phenylethyl)cyclohexyl]acetate
Intermediate 2 (667 mg, 2.81 mmol) was dissolved in dimethylformamide (14 ml), 2-bromo-1-phenylethanone (560 mg, 2.81 mmol) was added and the reaction stirred for 24 h at room temperature. Water (5 ml) was added and the reaction allowed to stir for a further 24 h. The mixture was then diluted with ethyl acetate (100 ml) and washed with water. The aqueous fraction was re-extracted three times with ethyl acetate and the combined organic fractions washed three times with water, then dried over sodium sulfate, filtered and concentrated in vacuo. Column chromatography (10-20% ethyl acetate/hexanes) provided the title compound as a pale yellow oil (428 mg, 50%).

reactant | 2-bromo-1-phenylethanone | 2.81 mmol, 560 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | Water | 5 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 1—Ethyl [2-oxo-3-(2-oxo-2-phenylethyl)cyclohexyl]acetate | 428 mg, 50% | O=C1C(CCCC1CC(C1=CC=CC=C1)=O)CC(=O)OCC | C18H22O4
